US07781591B2
A mixture of 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (120 mg, 0.32 mmol), 2-(tributylstannyl)-1,3-thiazole (340 mg, 0.91 mmol), dichlorobis(triphenylphosphine)palladium(II) (28 mg, 0.04 mmol), and triethylamine (36 mg, 0.35 mmol) in dioxane (4 mL) was heated at reflux for 24 h. 4-[(4-Methyl-1H-indol-5-yl)amino]-5-(1,3-thiazol-2-yl)nicotinonitrile was obtained following the work-up and purification procedures as described for the preparation of 5-(2-formyl-1-methyl-1H-imidazol-5-yl)-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile 541. HPLC retention time: 10.1 min.(g); MS: 332.2 (M+H); melting range: 245-247° C.; and HRMS: 332.0964.

reactant | 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 0.32 mmol, 120 mg | IC=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C15H11IN4
reactant | 2-(tributylstannyl)-1,3-thiazole | 0.91 mmol, 340 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | triethylamine | 0.35 mmol, 36 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.04 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[(4-Methyl-1H-indol-5-yl)amino]-5-(1,3-thiazol-2-yl)nicotinonitrile | CC1=C2C=CNC2=CC=C1NC1=C(C=NC=C1C#N)C=1SC=CN1 | C18H13N5S
